US08895313B2
2-Fluoro-4-methoxy-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide
A stirred solution of 2-fluoro-4-methoxybenzoic acid (0.23 g, 1.34 mmol) in thionyl chloride (7 ml) containing a drop of DMF was heated under reflux for 4 h. The excess reagent was then removed under reduced pressure to give a crude solid. The amide was prepared as described in the Amide Coupling section using the crude solid and 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline (0.30 g, 1.34 mmol) in dry pyridine (15 ml) to give the title compound (0.323 g, 80%) as a colourless solid after work-up and flash chromatography (EtOAc).

reactant | 2-fluoro-4-methoxybenzoic acid | 1.34 mmol, 0.23 g | FC1=C(C(=O)O)C=CC(=C1)OC | C8H7FO3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline | 1.34 mmol, 0.30 g | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(N)C=C2 | C14H13N3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-Fluoro-4-methoxy-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide | 0.323 g, 80% | FC1=C(C(=O)NC2=CC=C(C=C2)C=2N=C3N(C=C(C=C3)C)C2)C=CC(=C1)OC | C22H18FN3O2
